US04478835
Using the above method, 4-chloro-2-methoxy-6-phthalimidomethylpyrimidine could be converted to 2,4-dimethoxy-6-phthalimidomethylpyrimidine. Similarly, 4-chloro-2-methylthio-6-phthalimidomethylpyrimidine was reacted with sodium methanethiolate to provide 2,4-bis(methylthio)-6-phthalimidomethylpyrimidine, identical in all respects with the compound prepared in Example 1, part D.

reactant | 4-chloro-2-methoxy-6-phthalimidomethylpyrimidine | ClC1=NC(=NC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)OC | C14H10ClN3O3
reactant | 2,4-dimethoxy-6-phthalimidomethylpyrimidine | COC1=NC(=CC(=N1)OC)CN1C(C=2C(C1=O)=CC=CC2)=O | C15H13N3O4
reactant | 4-chloro-2-methylthio-6-phthalimidomethylpyrimidine | ClC1=NC(=NC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)SC | C14H10ClN3O2S
reactant | sodium methanethiolate | C[S-].[Na+]
product | 2,4-bis(methylthio)-6-phthalimidomethylpyrimidine | CSC1=NC(=CC(=N1)SC)CN1C(C=2C(C1=O)=CC=CC2)=O | C15H13N3O2S2
